US04258049
A solution of 13.6 g. (0.1 mole) of 3-methoxy-benzaldehyde and 10.5 g. (0.1 mole) of aminoacetaldehyde dimethyl acetal in 250 ml. of toluene is refluxed for one hour and water produced in the reaction is collected in a Dean-Stark trap. The resulting solution of 3-methoxy-N-(2,2-dimethoxyethyl)benzylidenamine is added to a solution of (0.2 mole) of methylmagnesium iodide in 250 ml. of ether over 1.5 hours. The mixture is stirred for one hour, cooled and quenched by careful addition of 250 ml. of water. The aqueous phase was filtered through Celite, extracted with 150 ml. of ether and the combined organic phases washed, dried and evaporated to yield 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)benzylamine.

reactant | 3-methoxy-benzaldehyde | 0.1 mole | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | aminoacetaldehyde dimethyl acetal | 0.1 mole | COC(CN)OC | C4H11NO2
reactant | 3-methoxy-N-(2,2-dimethoxyethyl)benzylidenamine | COC=1C=C(C=NCC(OC)OC)C=CC1 | C12H17NO3
reactant | methylmagnesium iodide | 0.2 mole | C[Mg]I
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-α-methyl-N-(2,2-dimethoxyethyl)benzylamine | COC=1C=C(C(C)NCC(OC)OC)C=CC1 | C13H21NO3
